US07608639B2
3-{2-Methyl-4-[3-methyl-5-(2′-trifluoromethoxy-5-trifluoromethyl-biphenyl-2-yloxy)-phenoxy]-phenyl}-propionic acid
The title compound is prepared by reacting the compound of 3-{4-[3-(2-bromo-4-trifluoromethyl-phenoxy)-5-methyl-phenoxy]-2-methyl-phenyl}-propionic acid ethyl ester with 2-trifluoromethoxyphenyl boronic acid as in Example 38 to afford 0.058 g (39%). 1H NMR (400 MHz, CDCl3); HRMS (ES+) m/z exact mass calculated for C31H25O5F6 591.1606, found 591.1619.

reactant | 3-{4-[3-(2-bromo-4-trifluoromethyl-phenoxy)-5-methyl-phenoxy]-2-methyl-phenyl}-propionic acid ethyl ester | C(C)OC(CCC1=C(C=C(C=C1)OC1=CC(=CC(=C1)C)OC1=C(C=C(C=C1)C(F)(F)F)Br)C)=O | C26H24BrF3O4
reactant | 2-trifluoromethoxyphenyl boronic acid | FC(OC1=C(C=CC=C1)B(O)O)(F)F | C7H6BF3O3
product | 3-{2-Methyl-4-[3-methyl-5-(2′-trifluoromethoxy-5-trifluoromethyl-biphenyl-2-yloxy)-phenoxy]-phenyl}-propionic acid | CC1=C(C=CC(=C1)OC1=CC(=CC(=C1)OC1=C(C=C(C=C1)C(F)(F)F)C1=C(C=CC=C1)OC(F)(F)F)C)CCC(=O)O | C31H24F6O5
